US04405781
To 70 ml. of water there was added 36.4 g (0.19 mole) of 6-chloropurine hydrochloride with vigorous stirring. Initially a thick paste was formed; after mixing for a short time the paste thinned out. The solution was stirred for 15 minutes at -12° C. in an ice-methanol bath and the pH was adjusted to 6.7 with concentrated ammonium hydroxide. The product grew in large particles after neutralization. The mixture was placed in a refrigerator for one hour and then the yellow precipitate was collected by filtration. The filter cake was washed with 15 ml. of ice water and dried in a vacuum oven at 55° C. to give 25.9 g. (91% yield) of 6-chloropurine, λ max (H2O)=264 nm, ε=9.10×103.

reactant | 6-chloropurine hydrochloride | 0.19 mole, 36.4 g | Cl.ClC1=C2NC=NC2=NC=N1
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | H2O | O | H2O
product | 6-chloropurine | 91% yield | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
